US05843942
Benzyl bromide (1.35 ml) was added to a mixture of 4-bromo-2-hydroxybenzaldehyde (2.07 g) and potassium carbonate (1.38 g) in DMF (20 ml) and the mixture was stirred at ambient temperature for 10 hours. The reaction mixture was poured into water (50 ml) to give 2-benzyloxy-4-bromobenzaldehyde as a solid which was filtered and dried, yield 2.88 g. The material was used in subsequent reactions without purification.

reactant | Benzyl bromide | 1.35 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-bromo-2-hydroxybenzaldehyde | 2.07 g | BrC1=CC(=C(C=O)C=C1)O | C7H5BrO2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-benzyloxy-4-bromobenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)Br | C14H11BrO2
